US04404230
3,5-Dimethoxybenzene sulfonic acid chloride
50 ml of concentrated aqueous hydrochloric acid were added, while cooling (reaction temperature: max. +20° C.) to a solution of 26.6 gm (0.174 mol) of 3,5-dimethoxyaniline in 100 ml of glacial acetic acid. Over a period of 35 minutes a solution of 12 gm (0.174 mol) of sodium nitrite in 25 ml of water was added at -8° to -3° C. while cooling. After stirring for 1 hour on a cold bath, the reaction mixture was filtered, and the dark-brown filtrate was poured at 20°-25° C. into a stirred suspension of 10.2 gm (60 mmols) of copper (II)-chloride and 2 gm (20 mmols) of copper(I)-chloride in 120 ml of a 30% solution of sulfur dioxide in glacial acetic acid. The reaction temperature first rose to 40° C. and after it fell the reaction mixture was heated at 40° C. for another 90 minutes. After partial evaporation, the reaction mixture was poured into 2 liters of ice water. After three extractions with ether, the organic extracts were washed with water, sodium bicarbonate solution and again with water.

reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | 3,5-dimethoxyaniline | 0.174 mol, 26.6 gm | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | sodium nitrite | 0.174 mol, 12 gm | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
catalyst | copper (II)-chloride | 60 mmols, 10.2 gm | [Cu](Cl)Cl
catalyst | copper(I)-chloride | 20 mmols, 2 gm | [Cu]Cl
product | 3,5-Dimethoxybenzene sulfonic acid chloride | COC=1C=C(C=C(C1)OC)S(=O)(=O)Cl | C8H9ClO4S
